US07838483B2
Glycine (5 g, 67 mmol) was suspended in water (10 cm3) and TMAH (25% in water, 24.3 g, 67 mmol) was added slowly, keeping the temperature at <30° C. with an ice-bath. The mixture was then cooled to 10° C. and acrylonitrile (7.78 g, 146 mmol) was added. The mixture was stirred overnight, and allowed to warm to room temperature slowly. It was then heated at 50° C. for 2 hours, using a reflux condenser. After cooling with ice, the mixture was neutralized with HCl (6M, 11.1 cm3) and concentrated to a viscous oil. This was dissolved in acetone (100 cm3) and filtered to remove NMe4Cl. The filtrate was concentrated under reduced pressure to give an oil that was treated once more with acetone (100 cm3) and filtered to remove more NMe4Cl. Concentration of the filtrate gave 2-(bis(2-cyanoethyl)amino)acetic acid (11.99 g, 99.3%) as a colourless, viscous oil that crystallised over 1 week at room temperature to give a solid product, mp 73° C. (lit mp 77.8-78.8° C. Duplicate 13C signals indicate a partly zwitterionic form in CDCl3 solution.

reactant | Glycine | 67 mmol, 5 g | NCC(=O)O | C2H5NO2
reactant | TMAH | 67 mmol, 24.3 g | C[N+](C)(C)C.[OH-]
reactant | acrylonitrile | 146 mmol, 7.78 g | C(C=C)#N | C3H3N
reactant | HCl | 6M, 11.1 cm3 | Cl | ClH
reactant | acetone | 100 cm3 | CC(=O)C | C3H6O
solvent | water | 10 cm3 | O | H2O
product | 2-(bis(2-cyanoethyl)amino)acetic acid | 11.99 g, 99.3% | C(#N)CCN(CC(=O)O)CCC#N | C8H11N3O2
